### PR TITLE
[Merged by Bors] - feat(Topology): prove there exists an embedding of separable metric spaces in the hilbert cube

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)
- [x] depends on: #30849

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
```lean
lemma separation3 {x : X} {C : Set X} (hxC : C ∈ 𝓝 x) :
    ∃ (n : ℕ), C ∈ (𝓝 (T_func X n x)).comap (T_func X n) := by
  let ε : ℝ := min (infDist x (closure Cᶜ)) 1
  obtain hC | hC := (closure Cᶜ).eq_empty_or_nonempty
  · simp_all
  have : Nonempty X := ⟨x⟩
  obtain ⟨n, hn⟩ := denseRange_iff.mp (denseRange_denseSeq X) x (ε / 2)
    (by simp_all [ε, ← IsClosed.notMem_iff_infDist_pos, mem_interior_iff_mem_nhds])
  refine ⟨n, ball 0 (ε / 2), isOpen_ball.mem_nhds ?_, ?_⟩
  · simp [Subtype.dist_eq, abs_eq_self.mpr, coe_projIcc, hn]
  · intro y hy
    replace hy : dist y (denseSeq X n) < ε / 2 := by
      simpa [Subtype.dist_eq, abs_eq_self.mpr, coe_projIcc, not_lt_of_ge, ε, div_le_iff₀] using hy
    have : dist x y < infDist x (closure Cᶜ) :=
      ((dist_triangle_right x y (denseSeq X n)).trans_lt (add_lt_add hn hy)).trans_le (by simp [ε])
    simpa using notMem_of_notMem_closure (mt infDist_le_dist_of_mem this.not_ge)

lemma injective_T : Pairwise fun x y ↦ ∃ n, T_func X n x ≠ T_func X n y := by
  intro x y hxy
  obtain ⟨n, hn⟩ := separation3 ((isOpen_compl_singleton (x := y)).mem_nhds hxy)
  exact ⟨n, fun e ↦ by simp +contextual [e, ← exists_prop, mem_of_mem_nhds] at hn⟩

theorem exists_embedding_to_hilbert_cube : ∃ F : X → ℕ → I, IsEmbedding F := by
  let firststep : X ≃ₜ PiNatEmbed X (fun i => I) (T_func X) := {
    toFun := toPiNat
    invFun := ofPiNat
    left_inv _ := rfl
    right_inv _ := rfl
    continuous_toFun := continuous_toPiNat <| fun i ↦ continuous_T i
    continuous_invFun := by
      refine continuous_iff_continuousAt.mpr fun x s hs ↦ ?_
      have ⟨i, t, ht, hts⟩ := separation3 hs
      rw [(isUniformEmbedding_embed injective_T).isEmbedding.nhds_eq_comap, nhds_pi]
      exact ⟨_, Filter.mem_pi_of_mem _ ht, fun x hx ↦ hts hx⟩
  }
  let secondstep : PiNatEmbed X (fun i => I) (T_func X) → ℕ → I := embed _ _ _
  let isEmbedding_secondstep : IsEmbedding secondstep :=
      (isUniformEmbedding_embed injective_T).isEmbedding
  exact ⟨_, isEmbedding_secondstep.comp firststep.isEmbedding⟩
```
Here's a better proof

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 1]
```diff
@@ -1079,6 +1080,144 @@ lemma TopologicalSpace.MetrizableSpace.of_countable_separating (f : ∀ i, X →
...
 
 end CompactSpace
+
+open TopologicalSpace Filter unitInterval
+
+variable [MetricSpace X] [SeparableSpace X]
+
+variable (X) in
+/-- Embedding function into 1 direction of countable cube -/
+noncomputable abbrev T_func (n : ℕ) (x : X) : I :=
```
Comment (erdOne) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: definitions should be in camelcase, i.e. `tFunc`. And I hope there should be a better and more descriptive name for this.

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 2]
```diff
@@ -1079,6 +1080,144 @@ lemma TopologicalSpace.MetrizableSpace.of_countable_separating (f : ∀ i, X →
...
+
+theorem exists_embedding_to_hilbert_cube : ∃ F : X → ℕ → I, IsEmbedding F := by
+  let firststep : X ≃ₜ PiNatEmbed X (fun i => I) (T_func X) := {
+    toFun := toPiNatEquiv X (fun i => I) (T_func X)
+    invFun := ofPiNat
+    left_inv _ := rfl
+    right_inv _ := rfl
+    continuous_toFun := by
+      rw [toPiNatEquiv]; exact continuous_toPiNat <| fun i ↦ continuous_T i
+    continuous_invFun := by
```
Comment (erdOne) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: This sorry should be its own lemma.

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: And I wonder if you should just take an arbitrary dense sequence

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 2 above)
Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Thank you very much for the huge golf and suggestions! I have incorporated the changes and the code is much improved

File: Mathlib/Topology/Compactness/HilbertCubeEmbedding.lean [hunk 3]
```diff
@@ -9,14 +9,15 @@ public import Mathlib.Topology.UnitInterval
 
 /-!
 # Every compact metric space can be embedded into the Hilbert cube.
-
 In this file we prove `exists_closed_embedding_to_hilbert`: every compact metric space can be
```
Comment (j-loreaux) [inline Mathlib/Topology/Compactness/HilbertCubeEmbedding.lean]: Please put this blank line back, as it separates the header from the body.

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 4]
```diff
@@ -675,7 +677,6 @@ theorem exists_retraction_subtype_of_isClosed {s : Set (∀ n, E n)} (hs : IsClo
 end PiNat
 
 open PiNat
-
 /-- Any nonempty complete second countable metric space is the continuous image of the
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/PiNat.lean:681]: put the blank line back please.

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 5]
```diff
@@ -1079,6 +1080,67 @@ lemma TopologicalSpace.MetrizableSpace.of_countable_separating (f : ∀ i, X →
...
 
 end CompactSpace
+
+open TopologicalSpace Filter unitInterval
+
+variable [MetricSpace X] [SeparableSpace X]
+
+variable (X) in
+/-- Embedding function into 1 direction of countable cube -/
+noncomputable abbrev hCubeEmbedding (n : ℕ) (x : X) : I :=
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: This is not a good name for this. We don't have anything called `hCube` in Mathlib. And this *isn't* an embedding (at least, not with this argument order), but you use all of them to build one.
I suggest calling it `distDenseSeq`.

Instead, the docstring should specify exactly what this is:
```suggestion
/-- Given a separable metric space `X`, `denseSeq X : ℕ → X` gives a countable
dense sequence. This measures the distance between `denseSeq X n` and `x`, truncated to the unit interval `I` so that the distances remain bounded.

The function `(fun x n ↦ distDenseSeq n x) : X → ℕ → I` is a mapping from `X` to the Hilbert cube. -/
noncomputable abbrev distDenseSeq (n : ℕ) (x : X) : I :=
```

Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Thank you for the review! I've added your suggestions

File: Mathlib/Topology/Compactness/HilbertCubeEmbedding.lean [hunk 6]
```diff
@@ -17,6 +17,8 @@ embedded into the Hilbert cube (`ℕ → unitInterval`).
 @[expose] public section
 
 /-- Every compact metric space can be embedded into the Hilbert cube. -/
+@[deprecated "This theorem is deprecated in favor of using the more general
+Metric.PiNatEmbed.exists_embedding_to_hilbert_cube" (since := "2025-11-27")]
 theorem exists_closed_embedding_to_hilbert_cube (X : Type*) [MetricSpace X] [CompactSpace X] :
     ∃ f : X → (ℕ → unitInterval), Topology.IsClosedEmbedding f := by
   obtain _ | _ := subsingleton_or_nontrivial X
```
Comment (j-loreaux) [inline Mathlib/Topology/Compactness/HilbertCubeEmbedding.lean]: Given that this is the only declaration in this file (which I didn't realize until just now), you should do the following:

1. delete this file in its entirety
2. add a deprecated alias for this declaration in the `PiNat` file.
3. ping me again to merge this PR
4. create a follow-up PR in which you recreate this file as a `deprecated module` and have it import `PiNat`.

Comment (FormulaRabbit81) [reply Mathlib/Topology/Compactness/HilbertCubeEmbedding.lean]: Thanks! I've done this but it would be good to check I've done the declaration alias correctly as I couldn't find anything in the contribution guide on this.

**Comment by FormulaRabbit81** [comment]
-awaiting-author
